US06768025B2
Step 3: 2-Chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoic Acid
1.600 g (4.07 mmol) of methyl 2-chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoate were dissolved in a mixture of 20 ml of THF and 20 ml of water, and with 0.218 g (5.50 mmol) of sodium hydroxide was added. The mixture was stirred at RT for 12 h and concentrated. The residue was taken up in water and admixed with 6 N HCl. The precipitate was filtered off with suction and dried. This gave 2-chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoic acid in the form of a white solid.

reactant | methyl 2-chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoate | 4.07 mmol, 1.600 g | ClC1=C(C(=O)OC)C=CC(=C1OCC(C(F)F)(F)F)S(=O)(=O)CC | C13H13ClF4O5S
reactant | sodium hydroxide | 5.50 mmol, 0.218 g | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 2-Chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoic Acid | ClC1=C(C(=O)O)C=CC(=C1OCC(C(F)F)(F)F)S(=O)(=O)CC | C12H11ClF4O5S
